US05232940
Phosphorus oxychloride (20 ml) was added to 5-amino-1-(2-bromo-6-chloro-4-trifluoromethylphenyl)-3-carbamoyl-4-methanesulphonylpyrazole (4.0 g) and the solution heated at 50°-60° C for 3.25 hours, and left at room temperature overnight. The mixture was cautiously added to vigorously stirred water (200 ml), and the precipitated solid collected and dried in vacuo. Recrystallisation from toluene/ethanol gave 5-amino-1-(2-bromo-6-chloro-4-trifluoromethylphenyl)-3-cyano-4-methanesulphonylpyrazole as buff crystals, m.p. 235°-238° C.

reactant | Phosphorus oxychloride | 20 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 5-amino-1-(2-bromo-6-chloro-4-trifluoromethylphenyl)-3-carbamoyl-4-methanesulphonylpyrazole | 4.0 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Br)C(N)=O)S(=O)(=O)C | C12H9BrClF3N4O3S
solvent | water | 200 ml | O | H2O
product | 5-amino-1-(2-bromo-6-chloro-4-trifluoromethylphenyl)-3-cyano-4-methanesulphonylpyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Br)C#N)S(=O)(=O)C | C12H7BrClF3N4O2S
